US08084448B2
I. (S)-3-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-2,3-dihydrobenzo[c]azepin-1-one
To a solution of (S)-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-2,3-dihydrobenzo[c]azepin-1-one in methylene chloride (2 mL) at −10° C. is added 0.3 mL of BBr3. The mixture is stirred at −10° C. for 30 min and is quenched with water. The aqueous phase is separated and lyophilized to give the title compound: 1H NMR (DMSO-d6) δ 9.61 (br s, 1H), 8.30 (d, J=5.56 Hz, 1H), 7.84 (d, J=7.58 Hz, 1H), 7.52 (t, J=7.07 Hz, 1H), 7.40 (t, J=7.58 Hz, 1H), 7.32 (d, J=8.0 Hz, 1H), 7.24 (d, J=8.08 Hz, 1H), 6.71 (m, 3H), 6.17 (m, 1H), 4.30 (s, 2H), 3.64 (m, 1H), 2.68 (m, 1H), 2.77 (m, 1H).

reactant | (S)-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-2,3-dihydrobenzo[c]azepin-1-one | C(C1=CC=CC=C1)OC=1C=C(C[C@H]2C=CC3=C(C(N2)=O)C=CC=C3)C=CC1N1S(NC(C1)=O)(=O)=O | C26H23N3O5S
reactant | BBr3 | 0.3 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-2,3-dihydrobenzo[c]azepin-1-one | OC=1C=C(C[C@H]2C=CC3=C(C(N2)=O)C=CC=C3)C=CC1N1S(NC(C1)=O)(=O)=O | C19H17N3O5S
